US07015218B1
To a tetrahydrofuran solution (90 ml) containing 5-amino-2-neopentyloxybenzonitrile (30 g) and triethylamine (17.7 g) was added tert-butoxycarboxylic anhydride (35.2 g) under ice-cooling. The mixture was warmed to room temperature and stirred further for 4 h. The reaction mixture was poured into aqueous potassium carbonate solution and extracted with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, after which the solvent was evaporated under reduced pressure. n-Hexane was added to the residue to allow crystallization. The crystals were recrystallized from a mixed solvent of ethyl acetate-n-hexane to give N-(3-cyano-4-neopentyloxyphenyl)-tert-butoxycarboxamide (24.5 g), melting point: 169–170° C.

reactant | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
reactant | 5-amino-2-neopentyloxybenzonitrile | 30 g | NC=1C=CC(=C(C#N)C1)OCC(C)(C)C | C12H16N2O
reactant | tert-butoxycarboxylic anhydride | 35.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | triethylamine | 17.7 g | C(C)N(CC)CC | C6H15N
product | N-(3-cyano-4-neopentyloxyphenyl)-tert-butoxycarboxamide | 24.5 g | C(#N)C=1C=C(C=CC1OCC(C)(C)C)NC(=O)OC(C)(C)C | C17H24N2O3
